US08580957B2
A flask was charged with (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (for a preparation see Intermediate 108) (295 mg, 0.7 mmol), 2-bromopyrimidine (334 mg, 2.100 mmol), sodium tert-butoxide (336 mg, 3.50 mmol), tris(dibenzylideneacetone)dipalladium(0) (641 mg, 0.700 mmol) and 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl (DavePhos) (551 mg, 1.400 mmol) then filled with toluene (10 mL) and the resulting mixture was stirred at 100° C. under nitrogen for 1.5 h then cooled to room temperature and partitioned between water and AcOEt, The two layers were filtered through celite then separated. The aqueous phase was extracted with AcOEt and the combined organic were washed with water then brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:13 to 63% AcOEt in Hexanes) gave (2S,4R)-1-acetyl-2-methyl-N-2-pyrimidinyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine (220 mg, 0.475 mmol, 67.9% yield) as a brown foam.

reactant | (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)N)C
reactant | 2-bromopyrimidine | 2.100 mmol, 334 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium tert-butoxide | 3.50 mmol, 336 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl | 1.400 mmol, 551 mg | CN(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.700 mmol, 641 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-1-acetyl-2-methyl-N-2-pyrimidinyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine | 0.475 mmol, 220 mg, 67.9% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)NC1=NC=CC=N1)C | C27H38N4OSi
